US05420323
To a 100 ml, three neck, round bottomed flask equipped with a mechanical stirrer, a dropping funnel, and a condenser were added under the dried nitrogen atmosphere, 542 g (7.08 mol) of allyl chloride and 600 μl of 1% chloroplatinie acid catalyst. Through the dropping funnel was added dropwise 100 g (0.71 mol) of allyldichlorosilane for 30 min while refluxing. After confirming by gas chromatography to complete the reaction, the product was fractionally distilled under vacuum (60°-64° C./0.5 torr) to give 95 g (62.5 % ) of 4,4,7-trichloro-4-sila-1-heptene. Allyltrichlorosilane 30.0 g (19.7 % ) was also obtained as a by-product.

reactant | allyl chloride | 7.08 mol, 542 g | C(C=C)Cl | C3H5Cl
reactant | allyldichlorosilane | 0.71 mol, 100 g | C(C=C)[SiH](Cl)Cl | C3H6Cl2Si
product | 4,4,7-trichloro-4-sila-1-heptene | 95 g, 62.5 % | Cl[Si](CC=C)(CCCCl)Cl | C6H11Cl3Si
